US06833457B1
3,4-Dichloro-N-formylaniline
3,4-Dichloroaniline (1000.0 g, 6.172 mol) and formic acid (585 g, 12.7 mol) were charged, and the mixture was stirred at 90° C. for 1 hr. Water (1.5 L) was dropwise added with heating, and then the mixture was gradually cooled to allow precipitation of the crystals. The mixture was stirred at room temperature for 30 min., and the crystals were collected by filtration. The crystals were washed with water (1.2 L) and dried in vacuo at 40° C. for 8 hrs. to give the title compound (1160.8 g, yield 99.0%) as pale-brown crystals.

reactant | 3,4-Dichloroaniline | 6.172 mol, 1000.0 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | formic acid | 12.7 mol, 585 g | C(=O)O | CH2O2
solvent | Water | 1.5 L | O | H2O
product | 3,4-Dichloro-N-formylaniline | 1160.8 g, yield 99.0% | ClC=1C=C(NC=O)C=CC1Cl | C7H5Cl2NO
